US06573274B1
Methyl 3-(2-chloro-4-((2-chloroethoxycarbonyl)amino)-benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (240 mg) was dissolved in methanol (3 ml) and a 28% solution (159 mg) of sodium methylate in methanol was added at room temperature, which was followed by stirring at 60° C. for 2 hr. The reaction mixture was neutralized with 1N hydrochloric acid under ice-cooling. A saturated aqueous sodium hydrogen carbonate solution was added and the mixture was extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Ethyl acetate (5 ml) was added to the residue and the mixture was heated and allowed to cool. The precipitated crystals were collected by filtration and dried under reduced pressure with heating to give methyl 3-(2-chloro-4-(2-oxo-1,3-oxazolidin-3-yl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (121 mg) as yellow crystals.

reactant | Methyl 3-(2-chloro-4-((2-chloroethoxycarbonyl)amino)-benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 240 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)NC(=O)OCCCl | C19H18Cl2N4O4
reactant | sodium methylate | C[O-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | methyl 3-(2-chloro-4-(2-oxo-1,3-oxazolidin-3-yl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 121 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)N1C(OCC1)=O | C19H17ClN4O4
